US07968746B2
To a solution of N-(3-(1H-imidazol-1-yl)propyl)-6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxamide (100.7 mg, 0.282 mmol) in 6 mL AcCN and 6 mL CH2Cl2, cooled to 0° C., was added a cooled solution of CAN (340 mg, 0.620 mmol) in 2 mL H2O, dropwise over 5 minutes. The reaction was immediately treated with 5 mL EtOAc and washed 3×3 mL H2O. The aqueous layer was basified with 6 mL saturated NaHCO3 solution and extracted 6×3 mL EtOAc. The combined organics were dried over Na2SO4 and concentrated to a yellow oil. Flash chromatography yielded 98.1 mg of N-(3-(1H-imidazol-1-yl)propyl)-2-hydroxy-2-methyl-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide as a yellow solid.

reactant | N-(3-(1H-imidazol-1-yl)propyl)-6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxamide | 0.282 mmol, 100.7 mg | N1(C=NC=C1)CCCNC(=O)C1(OC2=C(C(=C(C(=C2CC1)C)O)C)C)C | C20H27N3O3
reactant | CAN | 0.620 mmol, 340 mg | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
reactant | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
solvent | AcCN | 6 mL | C(=O)(C)C#N | C3H3NO
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 2 mL | O | H2O
product | N-(3-(1H-imidazol-1-yl)propyl)-2-hydroxy-2-methyl-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide | 98.1 mg | N1(C=NC=C1)CCCNC(C(CCC1=C(C(C(=C(C1=O)C)C)=O)C)(C)O)=O | C20H27N3O4
